US08247612B2
To a solution of 10 g of methyl thioglycolate and 21 g of 1-iodo-3,3,3-trifluoropropane in 200 ml of N,N-dimethylformamide, 13 g of potassium carbonate was added under ice-cooling, and then stirred at room temperature for 20 hours. To the reaction mixture, 10% hydrochloric acid was added, followed by extraction with ethyl acetate. The organic layer was washed sequentially with 10% hydrochloric acid and a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure to obtain a crude product comprising methyl (3,3,3-trifluoropropylthio)acetate. The obtained crude product was dissolved in 100 ml of glacial acetic acid, and 50 ml of peracetic acid (32% (w/w) acetic acid solution) was added thereto under ice-cooling. The mixture was stirred at 60° C. for 16 hours. In the middle of the reaction, the formation of a compound that was presumed to be in a sulfoxide form was confirmed by TLC (thin layer chromathgraphy) analysis. The reaction mixture was allowed to stand to cool to nearly room temperature, poured into water and then extracted with ethyl acetate. The organic layer was washed sequentially with a saturated sodium hydrogen carbonate aqueous solution and a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The obtained residue was subjected to silica gel chromatography to obtain 14.1 g of methyl (3,3,3-trifluoropropylsulfonyl)acetate.

reactant | methyl thioglycolate | 10 g | C(CS)(=O)OC | C3H6O2S
reactant | 1-iodo-3,3,3-trifluoropropane | 21 g | ICCC(F)(F)F | C3H4F3I
reactant | potassium carbonate | 13 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
reactant | methyl (3,3,3-trifluoropropylthio)acetate | FC(CCSCC(=O)OC)(F)F | C6H9F3O2S
reactant | peracetic acid | 50 ml | C(C)(=O)OO | C2H4O3
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | methyl (3,3,3-trifluoropropylsulfonyl)acetate | 14.1 g | FC(CCS(=O)(=O)CC(=O)OC)(F)F | C6H9F3O4S
